US07037916B2
Quinoline-3-carboxamidine (314 mg), ethyl butyrylacetate (290 mg), and sodium ethoxide (21 wt % in ethanol, 1.1 mL) were refluxed for 48 h in 20 mL of ethanol. The solvent was evaporated and the residue was partitioned between ethyl acetate and brine. The ethyl acetate phase was dried with sodium sulfate and the solvent was evaporated. Silica gel chromatography (50:45:5 ethyl acetate/hexanes/methanol) provide 280 mg of 6-propyl-2-quinolin-3-yl-3H-pyrimidin-4-one.

reactant | Quinoline-3-carboxamidine | 314 mg | N1=CC(=CC2=CC=CC=C12)C(=N)N | C10H9N3
reactant | ethyl butyrylacetate | 290 mg | C(CCC)(=O)CC(=O)OCC | C8H14O3
reactant | sodium ethoxide | 1.1 mL | [O-]CC.[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-propyl-2-quinolin-3-yl-3H-pyrimidin-4-one | 280 mg | C(CC)C1=CC(NC(=N1)C=1C=NC2=CC=CC=C2C1)=O | C16H15N3O
